US04335054
1-(Ethoxycarbonyl)-vinylnaphthalene
0.2244 g (10-3 mols) of palladium acetate, 15.05 g (0.1 mol) of naphthalene-1-carboxylic acid chloride, 13.54 ml (0.125 mol) of ethyl acrylate and 23.95 ml (0.1 mol) of tri-n-butylamine, in 200 ml of p-xylene, are stirred for 1 hour at 120° C. The crude product is distilled in vacuo. 15.6 g (69% of theory) of a colourless liquid (which distils at 143°-147° C./106 Pa) are obtained. Analysis for C15H14O2 : calculated C 79.62%, H 6.24%, O 14.14%; found C 79.24%, H 6.39%, O 14.27%.

reactant | naphthalene-1-carboxylic acid chloride | 0.1 mol, 15.05 g | C1(=CC=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
reactant | ethyl acrylate | 0.125 mol, 13.54 ml | C(C=C)(=O)OCC | C5H8O2
reactant | tri-n-butylamine | 0.1 mol, 23.95 ml | C(CCC)N(CCCC)CCCC | C12H27N
solvent | p-xylene | 200 ml | CC=1C=CC(=CC1)C | C8H10
catalyst | palladium acetate | 10-3 mols, 0.2244 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-(Ethoxycarbonyl)-vinylnaphthalene | C(C)OC(=O)C(=C)C1=CC=CC2=CC=CC=C12 | C15H14O2
